US04124603
A mixture of 14.2 g (0.05 mole) of 2-nitro-3-phenyl-7-benzofurancarboxylic acid, 8.6 g (0.05 mole) of N,N-diethylamino-2-chloroethane hydrochloride, 10.1 g (0.1 mole) of triethylamine and 75 ml of N,N-dimethylformamide is heated at 90° to 100° C. for 16 hours, then left standing at 23° C. for 2 days. The mixture is cooled with an ice bath, then filtered to remove the white solid by-product. The filtrate is dissolved in diethyl ether, washed thrice with water and twice with saturated sodium chloride solution and dried. The solution is evaporated to provide an oil, N,N-diethylaminoethyl 2-nitro-3-phenyl-7-benzofurancarboxylate. This oil is dissolved in diethyl ether and treated with 25 ml of 4N-hydrochloric acid in isopropanol to provide a product which gradually solidifies. The product is recrystallized twice from ethanol to provide, N,N-diethylaminoethyl 2-nitro-3-phenyl-7-benzofurancarboxylate hydrochloride, m.p. 194.5°-195° C., as a light yellow solid.

reactant | 2-nitro-3-phenyl-7-benzofurancarboxylic acid | 0.05 mole, 14.2 g | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2C(=O)O | C15H9NO5
reactant | N,N-diethylamino-2-chloroethane hydrochloride | 0.05 mole, 8.6 g | Cl.C(C)N(CC)CCCl
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | N,N-diethylaminoethyl 2-nitro-3-phenyl-7-benzofurancarboxylate | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2C(=O)OCCN(CC)CC | C21H22N2O5
